US08383635B2
1-(phenylsulfonyl)-1H-pyrazol-4-amine
To a solution of 4-nitro-1-(phenylsulfonyl)-1H-pyrazole (21.0 g, 82.9 mmol) in methanol (300 mL) was added Pd/C (10% wt, 4.0 g), and the mixture was stirred for 12 h at room temperature under a H2 atmosphere. After filtration, the filtrate was concentrated under reduced pressure. The resulting residue was washed with petroleum ether and dried to afford the product as a white solid (15.0 g, 81.1% yield).

reactant | 4-nitro-1-(phenylsulfonyl)-1H-pyrazole | 82.9 mmol, 21.0 g | [N+](=O)([O-])C=1C=NN(C1)S(=O)(=O)C1=CC=CC=C1 | C9H7N3O4S
solvent | methanol | 300 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 1-(phenylsulfonyl)-1H-pyrazol-4-amine | 15.0 g, 81.1% yield | C1(=CC=CC=C1)S(=O)(=O)N1N=CC(=C1)N | C9H9N3O2S
